US07825128B2
d) (RS)—S-(4-{[4-(cyclohexylamino)-5-(2H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide
In accordance with procedure 10, 990 mg (2.24 mmol) (RS)—S-(4-{[5-cyano-4-(cyclohexylamino)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide, 291 mg (4.47 mmol) sodium azide and 263 mg (4.92 mmol) ammonium chloride in 19 ml DMF are stirred for 24 hours at 120° C. After cooling, the mixture is added dropwise to 200 ml. A gel-like precipitate is filtered off at the pump and then washed with water. After drying, the product is obtained in 53% yield (571 mg).

reactant | (RS)—S-(4-{[5-cyano-4-(cyclohexylamino)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide | 2.24 mmol, 990 mg | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)NC1CCCCC1 | C21H26N6O3S
reactant | sodium azide | 4.47 mmol, 291 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.92 mmol, 263 mg | [Cl-].[NH4+]
solvent | DMF | 19 ml | CN(C)C=O | C3H7NO
product | (RS)—S-(4-{[4-(cyclohexylamino)-5-(2H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 53% yield | C1(CCCCC1)NC1=NC(=NC=C1C=1N=NNN1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C21H27N9O3S
